US07465731B2
To a stirred suspension of ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl}acrylate dihydrochloride (300 mg) in dichloromethane (6 mL) was added N,N-diisopropylethylamine (348 mg) and phenylacetyl chloride (139 mg) in dichloromethane (1 mL) in an ice bath and the resulting mixture was stirred at the same temperature for three hours. The mixture was extracted with chloroform and washed with saturated sodium bicarbonate and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate to afford ethyl (2E)-3-(5-{[(3R)-1-(phenylacetyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate (225 mg) as a pale brown viscous oil.

reactant | ethyl (2E)-3-{5-[(3R)-3-piperidinylamino]-2-pyrazinyl}acrylate dihydrochloride | 300 mg | Cl.Cl.N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC
reactant | N,N-diisopropylethylamine | 348 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylacetyl chloride | 139 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | ethyl (2E)-3-(5-{[(3R)-1-(phenylacetyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylate | 225 mg | C1(=CC=CC=C1)CC(=O)N1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)OCC | C22H26N4O3
